US06579872B1
N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(2-methoxyethoxy)benzamide
2-Bromoethyl methyl ether (0.023 ml) was added to a suspension of N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-hydroxybenzamide (0.06 g) and potassium carbonate (0.045 g) in DMF (3 ml) and the reaction mixture was stirred and heated to 80° C. for 5 hours. The mixture was poured into water and extracted with ethyl acetate. The organic extract was dried (MgSO4) and evaporated. The residue was triturated under diethyl ether and the resultant solid was isolated and dried under vacuum at 55° C. There was thus obtained the title compound (0.038 g); NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 3.27 (s, 3H), 3.66 (s, 2H), 4.17 (m, 2H), 7.04 (d, 2H), 7.24 (d, 1H), 7.57 (d, 1H), 7.82 (s, 1H), 7.96 (m, 4H), 8.1 (d, 2H), 9.71 (s, 1H), 10.44 (s, 1H); Mass Spectrum: M−H− 428.

reactant | 2-Bromoethyl methyl ether | 0.023 ml | COCCBr | C3H7BrO
reactant | N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-hydroxybenzamide | 0.06 g | C(#N)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)O)=O)C)C=C1 | C22H17N3O3
reactant | potassium carbonate | 0.045 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(2-methoxyethoxy)benzamide | 0.038 g | C(#N)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)OCCOC)=O)C)C=C1 | C25H23N3O4
